US06335334B1
119.) N-(4-(Morpholine-4-sulfonyl)-phenyl)-5-(morpholin-4-yl)-2-nitro-benzamide
20.00 g (0.56 mol) of 4-(5-chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride in 48.5 g (0.557 mol) of morpholine were heated under reflux for 1 h. Subsequently the mixture was cooled, poured onto ice/hydrochloric acid and filtered with suction. 26.0 g (98%) of the title compound having a melting point of 252° C. were obtained.

reactant | 4-(5-chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride | 0.56 mol, 20.00 g | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)F)C1)[N+](=O)[O-] | C13H8ClFN2O5S
reactant | morpholine | 0.557 mol, 48.5 g | N1CCOCC1 | C4H9NO
product | N-(4-(Morpholine-4-sulfonyl)-phenyl)-5-(morpholin-4-yl)-2-nitro-benzamide | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)N1CCOCC1)[N+](=O)[O-])=O | C21H24N4O7S
